US04073812
Alpha-ethynyl-3-phenoxybenzyl 2-(4-chlorophenyl)-2-isopropylethyl ether (2)
3.8 g of 3-phenoxybenzyl 2-(4-chlorophenyl)-2-isopropylethyl ether, 1.8 g of N-bromosuccinimide and a few crystals of azo-bis-isobutyronitrile were stirred under reflux in 80 ml of carbon tetrachloride for 30 minutes. The mixture was cooled in an ice-bath, filtered and the solvent removed to give a pale orange oil. A solution of the oil in 10 ml of tetrahydrofuran was added over a 20 minute period to a solution of an acetylenic Grignard reagent (prepared by saturating a solution of 2.3 g of ethyl bromide and 0.5 g of magnesium in 35 ml of tetrahydrofuran with acetylene at 15° C) whilst bubbling a slow stream of acetylene through the mixture. The stirring was continued overnight at room temperature under a stream of nitrogen. The black reaction mixture was warmed to 70° C for 30 minutes, cooled and a saturated solution of 20 ml of ammonium chloride added, followed by ether and water. The mixture was filtered through a "Celite" bed to remove the black solid and the organic layer separated, washed successively with ammonium chloride, sodium bicarbonate, sodium hydroxide and dried (MgSO4). Removal of the solvent gave a dark brown oil which was purified by chromatography on silica gel using 1:1 toluene: petroleum ether 60°-80° C as eluent, to give 2.

reactant | 3-phenoxybenzyl 2-(4-chlorophenyl)-2-isopropylethyl ether | 3.8 g | ClC1=CC=C(C=C1)C(COCC1=CC(=CC=C1)OC1=CC=CC=C1)C(C)C | C24H25ClO2
reactant | N-bromosuccinimide | 1.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azo-bis-isobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | carbon tetrachloride | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | Alpha-ethynyl-3-phenoxybenzyl 2-(4-chlorophenyl)-2-isopropylethyl ether | ClC1=CC=C(C=C1)C(COC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#C)C(C)C | C26H25ClO2
